US06893645B1
Step A: Synthesis of 300 g of P(l)LG/Tartaric Acid Copolymer (l-lactide:glycolide:tartaric acid=72:27:1)
The L(+)-tartaric acid was previously dried over silica gel (Riedel-de Haen, Seelze, Germany) in an Abderhalden drying apparatus for about 10 hours. The reactor (connected to a pump via a liquid nitrogen trap) was then put under vacuum (0.04 mbar) with stirring for about 50 minutes to remove toluene. The reactor, under an atmosphere of oxygen-free nitrogen (BOC gases, Dublin, Ireland, moisture content of 8 VPM), was then immersed in an oil bath (Temperature=˜180° C.) and stirring was increased to 125 rpm. Prior to immersion, a heating tape (Thermolyne type 45500, input control setting=4) was placed on the reactor lid. The time taken to completely melt the reactor contents was noted, typically about 15 minutes for a load of 300 g at about 180° C. Samples were taken every hour during synthesis and analyzed by GPC to determine the percentage residual monomer and to obtain values for average molecular weight by number (Mn) and by weight (Mw) distributions. Typical reaction times were of the order of about 15 hours. The final polymer was also analyzed by titration to determine an acid number in meq/g and by OC to determine residual unreacted monomer content. Further analyses include IR (detection of characteristic C═O peak); NMR (determination of lactide and glycolide content in polymer) and residual tin (determination of residual tin due to use of stannous 2-ethyl hexanoate as catalyst).

reactant | glycolide | C1C(=O)OCC(=O)O1 | C4H4O4
reactant | tin | [Sn] | Sn
product | Tartaric Acid | C(C(O)C(O)C(=O)O)(=O)O | C4H6O6
